US07790756B2
A solution of 5-amino-2-chloro-4-fluorophenol (100 mg, 0.619 mmol) in degassed dimethylacetamide (2 mL) was treated with potassium t-butoxide (83 mg, 0.743 mmol) and 5-chloro-2-cyanopyridine (86 mg, 0.619 mmol). The resultant mixture was heated to 80° C. overnight, then cooled to RT and diluted with water (10 mL). The mixture was extracted with EtOAc (30 mL). The organic phase was washed with water (3×30 mL) and brine (30 mL) dried (Na2SO4) and concentrated in vacuo to provide 5-(5-amino-2-chloro-4-fluorophenoxy)picolinonitrile as a dark oil which was used without further purification. MS (ESI) m/z: 264.0 (M+H+).

reactant | 5-amino-2-chloro-4-fluorophenol | 0.619 mmol, 100 mg | NC=1C(=CC(=C(C1)O)Cl)F | C6H5ClFNO
reactant | potassium t-butoxide | 0.743 mmol, 83 mg | CC(C)([O-])C.[K+]
reactant | 5-chloro-2-cyanopyridine | 0.619 mmol, 86 mg | ClC=1C=CC(=NC1)C#N | C6H3ClN2
solvent | dimethylacetamide | 2 mL | CC(=O)N(C)C | C4H9NO
solvent | water | 10 mL | O | H2O
product | 5-(5-amino-2-chloro-4-fluorophenoxy)picolinonitrile | NC=1C(=CC(=C(OC=2C=CC(=NC2)C#N)C1)Cl)F | C12H7ClFN3O
